US07384934B2
2-(5-Fluoro-2-nitro-phenylamino)-thiophene-3-carbonitrile
Combine 2,4-difluoro-1-nitro-benzene (5.24 g, 32.94 mmol), 2-aminothiophene-3-carbonitrile (4.09 g, 32.94 mmol), and DMSO (30.0 ml). Add lithium hydroxide monohydrate (2.76 g, 65.88 mmol) all at once and then stir the mixture at 55° for 22 hours. Cool the mixture to ambient temperature and then pour it onto ice chips. Extract with ethyl acetate and then wash (brine), dry (sodium sulfate), and evaporate the organic to residue. Purify the residue on silica gel using hexanes/dichloromethane (35:65) to give 3.89 g (45%) of the title compound as a red solid: mass spectrum (ion spray): m/z=262.0 (M−1).

reactant | 2,4-difluoro-1-nitro-benzene | 32.94 mmol, 5.24 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 2-aminothiophene-3-carbonitrile | 32.94 mmol, 4.09 g | NC=1SC=CC1C#N | C5H4N2S
reactant | lithium hydroxide monohydrate | 65.88 mmol, 2.76 g | O.[OH-].[Li+]
solvent | DMSO | 30.0 ml | CS(=O)C | C2H6OS
product | 2-(5-Fluoro-2-nitro-phenylamino)-thiophene-3-carbonitrile | 3.89 g, 45% | FC=1C=CC(=C(C1)NC=1SC=CC1C#N)[N+](=O)[O-] | C11H6FN3O2S
